US08293768B2
Synthesis of 4-methyl-N-((5-methylpyrazin-2-yl)methyl)-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with 2-(aminomethyl)-5-methylpyrazine, the title compound was obtained as a white powder in 42% yield: mp 172-173° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.49 (s, 1H), 8.36 (s, 1H), 7.63 (d, J=7.8 Hz, 2H), 7.42 (d, J=7.8 Hz, 2H), 6.77 (t, J=4.8 Hz, 1H), 4.68 (d, J=4.8 Hz, 2H), 4.59 (s, 2H), 4.11-4.05 (m, 2H), 3.49-3.43 (m, 2H), 2.59 (s, 3H), 2.47 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.5, 157.5, 155.5, 153.0, 152.6, 148.7, 143.4, 142.7, 139.7, 130.6, 130.2, 128.5, 125.9, 125.8, 122.1, 117.7, 47.6, 42.3, 42.0, 41.9, 21.2, 17.3; MS (ES+) m/z 491.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O3S
reactant | 2-(aminomethyl)-5-methylpyrazine | NCC1=NC=C(N=C1)C | C6H9N3
product | 4-methyl-N-((5-methylpyrazin-2-yl)methyl)-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | 42% yield | CC=1N=C(SC1C(=O)NCC1=NC=C(N=C1)C)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C22H21F3N6O2S
